US09380782B2
A mixture of 1-(2-methoxymethyl-3-ethenylphenyl)-4-methyl-1,4-dihydrotetrazole-5-one described in Reference Preparation example 2219.7 g, palladium fibroin complex 3.02 g and methanol 1 L was stirred at room temperature under hydrogen atmosphere for eleven hours. The reaction mixtures were filtered and the filtrates were concentrated under reduced pressure. The resulting residues were subjected to a silica gel column chromatography to give 1-(2-methoxymethyl-3-ethylphenyl)-4-methyl-1,4-dihydrotetrazole-5-one 19.3 g.

reactant | 1-(2-methoxymethyl-3-ethenylphenyl)-4-methyl-1,4-dihydrotetrazole-5-one | COCC1=C(C=CC=C1C=C)N1N=NN(C1=O)C | C12H14N4O2
catalyst | palladium | [Pd] | Pd
solvent | methanol | 1 L | CO | CH4O
product | 1-(2-methoxymethyl-3-ethylphenyl)-4-methyl-1,4-dihydrotetrazole-5-one | 19.3 g | COCC1=C(C=CC=C1CC)N1N=NN(C1=O)C | C12H16N4O2
